US05371097
A mixture of 4-(6-chloromethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (1.1 g), 2-mercaptobenzimidazole (0.74 g) and potassium carbonate (0.68 g) in N,N-dimethylformamide (20 ml) was stirred for 15 hours at ambient temperature. The reaction mixture was added water and extracted with ethyl acetate. The extract layer was washed with brine, dried over magnesium sulfate and evaporated to give 4-[6-(benzimidazol-2-yl)thiomethylpyridin-2-yl]-2-(diaminomethyleneamino)thiazole (1.22 g).

reactant | 4-(6-chloromethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 1.1 g | ClCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | C10H10ClN5S
reactant | 2-mercaptobenzimidazole | 0.74 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | potassium carbonate | 0.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-[6-(benzimidazol-2-yl)thiomethylpyridin-2-yl]-2-(diaminomethyleneamino)thiazole | 1.22 g | N1=C(NC2=C1C=CC=C2)SCC2=CC=CC(=N2)C=2N=C(SC2)N=C(N)N | C17H15N7S2
